US04883914
Preparation of 2-acetamido-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide
2,4-Dimethyl-4-isopropyl-2-oxazolin-5-one (2.0 g) is mixed with DMF (50 mL), THF (70 mL) and sodium p-toluene sulfonamide (5.0 g), and the resulting mixture is heated at reflux for 16 hours. At the end of this time the mixture is cooled, and the solvents are removed under vacuum. The residue is mixed with water and the pH adjusted to 8 with NaHCO3. The aqueous mixture is extracted with ethyl acetate and the organic layers are discarded. The aqueous mixture is acidified to pH≈4 with HCl and saturated with NaCl and extracted with ethyl acetate. The organic extracts are combined, dried over MgSO4, filtered and evaporated to give 0.66 of the title product.

reactant | 2,4-Dimethyl-4-isopropyl-2-oxazolin-5-one | 2.0 g | CC=1OC(C(N1)(C(C)C)C)=O | C8H13NO2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | sodium p-toluene sulfonamide | 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)N)C.[Na]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 2-acetamido-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide | C(C)(=O)NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C | C15H22N2O4S
